US07074798B2
a) 4-[7-(2-Butynyl)-3-methoxycarbonylmethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[7-(2-Butynyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (50 mg) and potassium carbonate (20 mg) were dissolved in N,N-dimethylformamide (1.5 ml) and methyl bromoacetate (14 μl) was added to the solution while cooling on ice. After the mixture was stirred at room temperature overnight, the mixture was diluted with ethyl acetate, washed with water, and dried over anhydrous magnesium sulfate. After the organic layer was concentrated by distillation, the residue was purified by silica gel column chromatography to give 26 mg of the title compound from the elution fraction of hexane-ethyl acetate (1:1).

reactant | 4-[7-(2-Butynyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 50 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2NC(NC(C2N1CC#CC)=O)=O | C18H24N6O4
reactant | potassium carbonate | 20 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 14 μl | BrCC(=O)OC | C3H5BrO2
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[7-(2-Butynyl)-3-methoxycarbonylmethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 26 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(NC(C2N1CC#CC)=O)=O)CC(=O)OC | C21H28N6O6
